US08008498B2
5-Chloromethyl-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 2)
5-Hydroxymethyl-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 1, 1.02 g, mmol) was dissolved in anhydrous methylene dichloride (10 mL), and then triethylamine (0.490 mL, 3.52 mmol) and methanesulfonyl chloride (231 L, mmol) were added successively. The reaction mixture was stirred at room temperature for 5 hours. Chloroform (50 mL) and water (50 mL) were added to the reaction mixture and separated. The organic layer was washed with saturated brine (50 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (515 mg) as an orange amorphous product. (Yield 49%)

reactant | 5-Hydroxymethyl-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 1.02 g | OCC1=C2C(=CC(NC2=CC=C1C1=C(C=C(C=C1)OCOC)OC)(C)C)C | C22H27NO4
reactant | triethylamine | 3.52 mmol, 0.490 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 231 L | CS(=O)(=O)Cl | CH3ClO2S
reactant | Chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methylene dichloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 5-Chloromethyl-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 515 mg, Yield 49% | ClCC1=C2C(=CC(NC2=CC=C1C1=C(C=C(C=C1)OCOC)OC)(C)C)C | C22H26ClNO3
